US06235936B1
Synthesis of N,N-Diphenyl-N′-(2-chlorophenyl)hydrazine
1,1-Diphenylhydrazine hydrochloride (1.2 equiv., 0.6 mmol, 135 mg), 2-chlorobromobenzene (1.0 equiv., 0.5 mmol, 0.06 mL), Pd(OAc)2 (0.05 equiv, 0.025 mmol, 6 mg), BINAP (0.05 equiv., 0.025 mmol, 16 mg), and NaOtBu (1.4 equiv., 0.7 mmol, 67 mg) and diisopropylamine (2 mL) were added to an oven dried test tube which was capped with a septum and purged briefly with argon (Q 1 min.) and then heated to 80° C. for 5 hours. The reaction was then cooled to room temperature, diluted with Et2O (2 mL), filtered through Celite and concentrated under vacuum. The crude mixture was purified by flash column chromatography (2% EtOAc/Hex) to give the title product as a white solid (109 mg, 0.37 mmol, 74% yield).

reactant | 1,1-Diphenylhydrazine hydrochloride | 0.6 mmol, 135 mg, 1.2 equiv. | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
reactant | 2-chlorobromobenzene | 0.5 mmol, 0.06 mL, 1.0 equiv. | ClC1=C(C=CC=C1)Br | C6H4BrCl
reactant | NaOtBu | 0.7 mmol, 67 mg, 1.4 equiv. | CC(C)(C)[O-].[Na+]
reactant | diisopropylamine | 2 mL | C(C)(C)NC(C)C | C6H15N
catalyst | Pd(OAc)2 | 0.025 mmol, 6 mg, 0.05 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.025 mmol, 16 mg, 0.05 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | N,N-Diphenyl-N′-(2-chlorophenyl)hydrazine | 0.37 mmol, 109 mg, 74% yield | C1(=CC=CC=C1)N(NC1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C18H15ClN2
